US09231217B2
Step 1: Synthesis of 5,6-bis(4-methylphenyl)pyrazin-2-ol
First, 5.5 g (23 mmol) of 4,4′-dimethylbenzil, 3.1 g (28 mmol) of glycinamide hydrochloride, 2.2 g (55 mmol) of sodium hydroxide, and 120 mL of methanol were put into a three-neck flask equipped with a reflux pipe, the air in the flask was replaced with nitrogen, and the mixture was refluxed for 8.5 hours. Then, stirring was performed until the temperature of the flask was returned to room temperature. After that, 3 mL of 12 M concentrated hydrochloric acid, 2.3 g of potassium bicarbonate, and 58 mL of water were added to this mixture, and filtration was performed.

reactant | 4,4′-dimethylbenzil | 23 mmol, 5.5 g | CC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)C | C16H14O2
reactant | glycinamide hydrochloride | 28 mmol, 3.1 g | Cl.NCC(=O)N
reactant | sodium hydroxide | 55 mmol, 2.2 g | [OH-].[Na+]
reactant | hydrochloric acid | 12 M, 3 mL | Cl | ClH
reactant | potassium bicarbonate | 2.3 g | C([O-])(O)=O.[K+]
solvent | water | 58 mL | O | H2O
solvent | methanol | 120 mL | CO | CH4O
product | 5,6-bis(4-methylphenyl)pyrazin-2-ol | CC1=CC=C(C=C1)C=1N=CC(=NC1C1=CC=C(C=C1)C)O | C18H16N2O
